US06806230B1
8.3 g (0.031 mol) of [1-(4-diethoxymethylpyrimidin-5-yl)-2-methylpropyl]methylamine and 6.4 g (46 mmol) of potassium carbonate were added to 100 ml of acetonitrile, and then 5.8 g (0.038 mol) of phenylacetyl chloride was dropwise added at room temperature and reacted for 2 hours. After completion of the reaction, the product was poured into water and extracted with ethyl acetate. The organic layer was washed with an aqueous citric acid solution, water and an aqueous sodium chloride solution in this order, dried and concentrated, and the obtained oily product was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:5 to ethyl acetate), to obtain 8.4 g (yield: 70%) of N-[1-(4-diethoxymethylpyrimidin-5-yl)-2-methylpropyl]-N-methyl-2-phenyl acetamide as colorless viscous liquid (nD2=1.5253)

reactant | [1-(4-diethoxymethylpyrimidin-5-yl)-2-methylpropyl]methylamine | 0.031 mol, 8.3 g | C(C)OC(C1=NC=NC=C1C(C(C)C)NC)OCC | C14H25N3O2
reactant | potassium carbonate | 46 mmol, 6.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | phenylacetyl chloride | 0.038 mol, 5.8 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water | O | H2O
product | N-[1-(4-diethoxymethylpyrimidin-5-yl)-2-methylpropyl]-N-methyl-2-phenyl acetamide | 8.4 g, yield: 70% | C(C)OC(C1=NC=NC=C1C(C(C)C)N(C(CC1=CC=CC=C1)=O)C)OCC | C22H31N3O3
